US07659296B2
Preparation of 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-6-carboxylic acid dimethylamide
2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-6-carboxylic acid (150 mg, 0.343 mmol) in CH2Cl2 (5.0 mL) is treated with DMAP (125 mg, 1.03 mmol) and EDC (99 mg, 0.514 mmol). The mixture is stirred for 15 m at RT, and dimethylamine hydrochloride (42 mg, 0.514 mmol) is added. The reaction is stirred for 18 h and quenched with aqueous NH4Cl (5.0 mL). The organic layer is loaded onto a silica gel column and purified with 50% EtOAc/Hex to afford the title compound (125 mg, 79%). MS (ES) m/e: 465.3 (M+1).

reactant | 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-6-carboxylic acid | 0.343 mmol, 150 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1OC2=C(N1)C=CC(=C2)C(=O)O)C)=O)(C)C | C26H31NO5
reactant | EDC | 0.514 mmol, 99 mg
reactant | dimethylamine hydrochloride | 0.514 mmol, 42 mg | Cl.CNC
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.03 mmol, 125 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-6-carboxylic acid dimethylamide | 125 mg, 79% | CN(C(=O)C1=CC2=C(N=C(O2)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C)C=C1)C | C28H36N2O4
